### PR TITLE
[Merged by Bors] - feat(NumberTheory/PrimeCounting): surjective and tendsto

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 1]
```diff
@@ -102,7 +102,31 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
...
+    simp only [Set.mem_range, Function.comp_apply, succ_eq_add_one]
+    use 0
+    rfl
+  simpa [Set.singleton_union, Set.insert_eq_of_mem h0] using Nat.range_of_succ primeCounting'
+
+open Filter
+
+theorem tendsto_primeCounting' : Tendsto π' atTop atTop := by
+  apply Filter.tendsto_atTop_atTop_of_monotone' monotone_primeCounting'
+  simp
```
Comment (mo271) [inline Mathlib/NumberTheory/PrimeCounting.lean:127]: this simp uses `range_primeCounting' `

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 2]
```diff
@@ -102,7 +102,31 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
...
 
+@[simp]
+theorem range_primeCounting' : Set.range π' = Set.univ := by
+  ext n
+  exact ⟨fun _ => trivial, fun _ => by
+    use nth (fun p ↦ Prime p) n
+    exact Nat.count_nth_of_infinite infinite_setOf_prime n⟩
+
+@[simp]
+theorem range_primeCoutning : Set.range π = Set.univ := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:116]:
```suggestion
theorem range_primeCounting : Set.range π = Set.univ := by
```

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 3]
```diff
@@ -102,7 +102,31 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
 theorem zeroth_prime_eq_two : nth Prime 0 = 2 := nth_count prime_two
 
 /-- The `n`th prime is greater or equal to `n + 2`. -/
-lemma add_two_le_nth_prime (n : ℕ) : n + 2 ≤ nth Prime n :=
+theorem add_two_le_nth_prime (n : ℕ) : n + 2 ≤ nth Prime n :=
   zeroth_prime_eq_two ▸ (nth_strictMono infinite_setOf_prime).add_le_nat n 0
 
+@[simp]
+theorem range_primeCounting' : Set.range π' = Set.univ := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:109]: It's probably more idiomatic to state that this is a surjective function instead.

Comment (mo271) [reply Mathlib/NumberTheory/PrimeCounting.lean]: makes sense, changed to using this

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 4]
```diff
@@ -102,7 +102,30 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
 theorem zeroth_prime_eq_two : nth Prime 0 = 2 := nth_count prime_two
 
 /-- The `n`th prime is greater or equal to `n + 2`. -/
-lemma add_two_le_nth_prime (n : ℕ) : n + 2 ≤ nth Prime n :=
+theorem add_two_le_nth_prime (n : ℕ) : n + 2 ≤ nth Prime n :=
   zeroth_prime_eq_two ▸ (nth_strictMono infinite_setOf_prime).add_le_nat n 0
 
+theorem surjective_primeCounting' : Function.Surjective π' := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:108]: I feel like this should be a specific case of a more specific result, namely, that `Nat.count` is surjective for any predicate satisfied infinitely often / for arbitrarily large values. (`Nat.count_nth_of_infinite` already basically implies this).

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 5]
```diff
@@ -102,7 +102,30 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
...
+   intro n
+   use nth Prime n
+   exact Nat.count_nth_of_infinite infinite_setOf_prime n
+
+theorem surjective_primeCounting : Function.Surjective π := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:113]: Do we have that `π (n - 1) = π' n`? This should lead to a much shorter proof using [`Function.Surjective.of_comp`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Function/Basic.html#Function.Surjective.of_comp).

File: Mathlib/NumberTheory/PrimeCounting.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/NumberTheory/PrimeCounting.lean:108]: Yeah, I see what you mean.
I'm using this `Nat.count_nth_of_infinite` already here, but I guess it is a good idea to add the more general form.
Done.

File: Mathlib/NumberTheory/PrimeCounting.lean (hunk 5 above)
Comment (mo271) [reply Mathlib/NumberTheory/PrimeCounting.lean:113]: No, we don't have that yet, but good idea let's add it!

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 6]
```diff
@@ -54,8 +54,13 @@ def primeCounting (n : ℕ) : ℕ :=
 
 @[inherit_doc] scoped[Nat.Prime] notation "π'" => Nat.primeCounting'
 
+
 open scoped Nat.Prime
 
+@[simp]
+theorem primeCounting_sub_one {n : ℕ} : π (n - 1) = π' n  := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:61]:
```suggestion
theorem primeCounting_sub_one (n : ℕ) : π (n - 1) = π' n := by
```

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 7]
```diff
@@ -54,8 +54,13 @@ def primeCounting (n : ℕ) : ℕ :=
 
 @[inherit_doc] scoped[Nat.Prime] notation "π'" => Nat.primeCounting'
 
+
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:57]: I don't think this space is necessary.

File: Mathlib/Data/Nat/Nth.lean [hunk 8]
```diff
@@ -303,6 +303,10 @@ theorem count_nth_of_lt_card_finite {n : ℕ} (hp : (setOf p).Finite) (hlt : n <
 theorem count_nth_of_infinite (hp : (setOf p).Infinite) (n : ℕ) : count p (nth p n) = n :=
   count_nth fun hf => absurd hf hp
 
+theorem surjective_of_infinite_setOf (h : {n | p n}.Infinite) :
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Nth.lean:306]: The name should mention `count`, maybe `surjective_count_of_infinite_setOf`?

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 9]
```diff
@@ -102,7 +107,27 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
 theorem zeroth_prime_eq_two : nth Prime 0 = 2 := nth_count prime_two
 
 /-- The `n`th prime is greater or equal to `n + 2`. -/
-lemma add_two_le_nth_prime (n : ℕ) : n + 2 ≤ nth Prime n :=
+theorem add_two_le_nth_prime (n : ℕ) : n + 2 ≤ nth Prime n :=
   zeroth_prime_eq_two ▸ (nth_strictMono infinite_setOf_prime).add_le_nat n 0
 
+theorem surjective_primeCounting' : Function.Surjective π' :=
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:113]: Looking at the file, it seems like `primeCounting'_add_le` is the main result. Since these theorems don't depend on it, it might be best to put them above.

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 10]
```diff
@@ -102,7 +107,27 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
...
+  Nat.surjective_of_infinite_setOf infinite_setOf_prime
+
+theorem surjective_primeCounting : Function.Surjective π := by
+  apply @Function.Surjective.of_comp ℕ ℕ  ℕ π (fun n => n - 1)
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/PrimeCounting.lean:117]: It feels like this proof should be easier, but I can't find a better way either. Just a small suggestion:
```suggestion
  apply Function.Surjective.of_comp (g := fun n => n - 1)
```

**Comment by mo271** [comment]
In case this gets merged after #17037, it might make sense to move `add_two_le_nth_prime` to the new file `Mathlib/Data/Nat/Prime/Nth.lean`

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 11]
```diff
@@ -102,7 +107,27 @@ theorem primeCounting'_add_le {a k : ℕ} (h0 : 0 < a) (h1 : a < k) (n : ℕ) :
...
+  have : π ∘ (fun n => n - 1) = π' := by
+    ext n
+    rw [Function.comp_apply, primeCounting_sub_one]
+  rw [this]
+  exact surjective_primeCounting'
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean]: slight golfing
```suggestion
  suffices Function.Surjective (π ∘ fun n => n - 1) from this.of_comp
  convert surjective_primeCounting'
  ext
  exact primeCounting_sub_one
```

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 12]
```diff
@@ -66,13 +70,38 @@ theorem monotone_primeCounting : Monotone primeCounting :=
...
+theorem surjective_primeCounting : Function.Surjective π := by
+  suffices Function.Surjective (π ∘ fun n => n - 1) from this.of_comp
+  convert surjective_primeCounting'
+  ext
+  simp
+
+open Filter
+
+theorem tendsto_primeCounting' : Tendsto π' atTop atTop := by
+  apply Filter.tendsto_atTop_atTop_of_monotone' monotone_primeCounting'
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:92]: This works, right?
```suggestion
  apply tendsto_atTop_atTop_of_monotone' monotone_primeCounting'
```

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 13]
```diff
@@ -66,13 +70,38 @@ theorem monotone_primeCounting : Monotone primeCounting :=
...
+  simp [Set.range_iff_surjective.mpr surjective_primeCounting']
+
+theorem tensto_primeCounting : Tendsto π atTop atTop := by
+  exact (Filter.tendsto_add_atTop_iff_nat 1).mpr tendsto_primeCounting'
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:96]: Same here
```suggestion
theorem tensto_primeCounting : Tendsto π atTop atTop := 
  (tendsto_add_atTop_iff_nat 1).mpr tendsto_primeCounting'
```

File: Mathlib/NumberTheory/PrimeCounting.lean [hunk 14]
```diff
@@ -66,13 +70,38 @@ theorem monotone_primeCounting : Monotone primeCounting :=
...
+  zeroth_prime_eq_two ▸ (nth_strictMono infinite_setOf_prime).add_le_nat n 0
+
+theorem surjective_primeCounting' : Function.Surjective π' :=
+  Nat.surjective_count_of_infinite_setOf infinite_setOf_prime
+
+theorem surjective_primeCounting : Function.Surjective π := by
+  suffices Function.Surjective (π ∘ fun n => n - 1) from this.of_comp
+  convert surjective_primeCounting'
+  ext
+  simp
```
Comment (vihdzp) [inline Mathlib/NumberTheory/PrimeCounting.lean:87]: Although it is in fact shorter to use `simp`, I think it's somewhat clearer and more reliable to simply call the theorem name explicitly.

**Review by vihdzp — APPROVED** [review]

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
